US07022851B2
1-(2-Nitro-benzensulfonyl)-3-phenyl-4-[(thymin-1-yl)acetyl]-piperazin-2-one
To a solution of (thymin-1-yl)-acetic acid (13 mg, 0.071 mmol), 1-(2-nitro-benzenesulfonyl)-3-phenyl-piperazin-2-one HCl salt (28 mg, 0.070 mmol), and PyBOP (40 mg, 0.077 mmol) in DMF (0.3 mL) was added N,N-diisopropylethylamine (0.018 mL) at room temperature. After stirring for additional 27 h, the reaction mixture was concentrated under reduced pressure. The residue was purified by column chromatography to give the titled compound (16 mg, 43%). 1H NMR (500 MHz; DMSO-d6) δ 11.33 (s, 1H), 8.36 (d, 1H), 8.13 (d, 1H), 8.05˜7.94 (m, 3H), 7.39˜7.29 (m, 5H), 5.93 (s, 1H), 4.87 (d, 1H), 4.67 (d, 1H), 4.22˜4.16 (m, 2H), 3.96 (m, 1H), 3.78 (m, 1H), 1.74 (s, 3H).

reactant | (thymin-1-yl)-acetic acid | 0.071 mmol, 13 mg | N1(C(=O)NC(=O)C(C)=C1)CC(=O)O | C7H8N2O4
reactant | 1-(2-nitro-benzenesulfonyl)-3-phenyl-piperazin-2-one HCl salt | 0.070 mmol, 28 mg | Cl.[N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N1C(C(NCC1)C1=CC=CC=C1)=O
reactant | PyBOP | 0.077 mmol, 40 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.018 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 0.3 mL | CN(C)C=O | C3H7NO
product | 1-(2-Nitro-benzensulfonyl)-3-phenyl-4-[(thymin-1-yl)acetyl]-piperazin-2-one | 16 mg, 43% | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N1C(C(N(CC1)C(CN1C(=O)NC(=O)C(C)=C1)=O)C1=CC=CC=C1)=O | C23H21N5O8S
